US08729105B2
Preparation of 5-(4-cyano-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid
The title compound was synthesized in analogy to Example BQ using 5-bromo-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid (CAN 1211586-75-2) and B-(4-cyanophenyl)-boronic acid, (CAN 126747-14-6) as starting materials; MS (ESI): 321.2 (M−H).

reactant | 5-bromo-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1OCC(F)(F)F)C(=O)O | C8H5BrF3NO3
reactant | B-(4-cyanophenyl)-boronic acid | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
product | 5-(4-cyano-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid | C(#N)C1=CC=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F | C15H9F3N2O3
